US09302991B2
<Step-1>: 2-bromo-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide (single enantiomer)
The title compound is prepared in 29% yield (182 mg, a white solid) from (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (200 mg, 0.78 mmol, Amine-1, single enantiomer) and 2-bromo-6-methylisonicotinic acid (269 mg, 1.95 mmol) by the similar manner in Step-1 of Example-8.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.78 mmol, 200 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | 2-bromo-6-methylisonicotinic acid | 1.95 mmol, 269 mg | BrC=1C=C(C(=O)O)C=C(N1)C | C7H6BrNO2
product | 2-bromo-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)isonicotinamide | 29% yield | BrC=1C=C(C(=O)NC(C)C=2C=NC(=CC2)OCC(F)(F)F)C=C(N1)C | C16H15BrF3N3O2
